US04920120
Ethyl 3-(3-chloro-2,4,5-trifluoro-6-methylbenzoyl)-β-oxopropanoate
The procedure outlined for Example H was used to prepare the title compound from the dianion of malonic acid monoethyl ester and 3-chloro-2,4,5-trifluoro-6-methylbenzoyl chloride. The crude product was also chromatographed on silica gel to give the desired product as an orange oil.

reactant | malonic acid monoethyl ester | C(C)OC(CC(=O)O)=O | C5H8O4
reactant | 3-chloro-2,4,5-trifluoro-6-methylbenzoyl chloride | ClC=1C(=C(C(=O)Cl)C(=C(C1F)F)C)F | C8H3Cl2F3O
product | Ethyl 3-(3-chloro-2,4,5-trifluoro-6-methylbenzoyl)-β-oxopropanoate | ClC=1C(=C(C(=O)C(CC(=O)OCC)=O)C(=C(C1F)F)C)F | C13H10ClF3O4
